US06015822
6.63 g (57 mmol) of methanesulfonyl chloride were added dropwise to a solution of 11.7 g (41 mmol) of butyl-(1,1-dioxo-2,3-dihydro-1H-benzo[b]thiophen-3-yl)-amine and 15.5 g (153 mmol) of triethylamine in 120 ml of THF, and the reaction mixture was stirred at RT overnight. Most of the THF was distilled off, the residue was diluted with 250 ml of water and the precipitate was filtered off with suction. Drying under reduced pressure gave 13.8 g of N-butyl-N-(1,1-dioxo-2,3-dihydro-1H-benzo[b]thiophen-3-yl)methanesulfonamide; m.p. 171-173° C.

reactant | methanesulfonyl chloride | 57 mmol, 6.63 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | butyl-(1,1-dioxo-2,3-dihydro-1H-benzo[b]thiophen-3-yl)-amine | 41 mmol, 11.7 g | C(CCC)NC1C2=C(S(C1)(=O)=O)C=CC=C2 | C12H17NO2S
reactant | triethylamine | 153 mmol, 15.5 g | C(C)N(CC)CC | C6H15N
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | N-butyl-N-(1,1-dioxo-2,3-dihydro-1H-benzo[b]thiophen-3-yl)methanesulfonamide | 13.8 g | C(CCC)N(S(=O)(=O)C)C1C2=C(S(C1)(=O)=O)C=CC=C2 | C13H19NO4S2
